US07816405B2
5-Chloro-2-[((2S)-2-fluoro-3-hydroxypropyl)oxy]benzonitrile
5-Chloro-2-[[(2R)-2-fluoro-3-(trityloxy)propyl]oxy]benzonitrile (460 g, 0.97 mol) was suspended in a toluene-methanol mixture (4.8 L/3.22 L) at room temperature and then concentrated sulfuric acid (3.1 mL, 0.06 mol) was added to the reaction mixture, followed by stirring the reaction mixture at the same temperature for 18.5 hours. A 1N sodium hydroxide aqueous solution was added to the reaction mixture at room temperature to adjust the pH to 14 or more, followed by subjecting the reaction mixture to vacuum concentration. Ethyl acetate (2.1 L) and water (1.2 L) were added to the residue to separate an organic layer, followed by washing the organic layer twice with water (1.2 L) before vacuum concentration. Ethyl acetate (0.7 L) was added to the resultant crude crystal, which was then heated to 60° C. for complete dissolution. Heptane (3.8 L) was then added to the reaction mixture, followed by cooling and the filtration of the precipitated crystal to obtain 196 g of the title compound (yield: 88%).

reactant | 5-Chloro-2-[[(2R)-2-fluoro-3-(trityloxy)propyl]oxy]benzonitrile | 0.97 mol, 460 g | ClC=1C=CC(=C(C#N)C1)OC[C@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C29H23ClFNO2
reactant | toluene-methanol | 4.8 L | C=1(C(=CC=CC1)CO)C | C8H10O
reactant | sulfuric acid | 0.06 mol, 3.1 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | 5-Chloro-2-[((2S)-2-fluoro-3-hydroxypropyl)oxy]benzonitrile | 196 g, yield: 88% | ClC=1C=CC(=C(C#N)C1)OC[C@H](CO)F | C10H9ClFNO2
